US07101868B2
Preparation CLI—2-(2,4-Dinitro-phenyl)-3,3,3-trifluoro-2-trifluoromethyl-propionic acid methyl ester
A mixture of 7.08 g (38.07 mmol) 2,4-dinitrofluorobenzene, 2.43 g (41.88 mmol) KF, and 0.58 g (2.21 mmol) 18-crown-6-ether in 37 mL sulfolane was added 4.00 g (19.04 mmol) methyl 2-(trifluoromethyl)-3,3,3-trifluoropropionate dropwise over about 7 h via syringe pump. After the addition was complete, another 2.43 g KF, 0.58 g 18-Crown-6-ether were added and then 4.00 g Methyl 2-(trifluoromethyl)-3,3,3-trifluoropropionate were added dropwise over 12 h. The next day, repeated additions using same amounts and setting syringe pump addition over 14 h. The following day, the additions were again repeated, this time using half the amounts as above additions and setting syringe pump addition at 12 h. After addition was completed, the reaction mix was cooled to RT and diluted into Et2O and 0.5 N aqueous HCl. The layers were separated, and the organic layer was washed with brine, dried over Na2SO4, filtered and concentrated under vacuum. The crude was eluted on a silica gel column with EtOAc/hexanes gradient, to yield the titled compound, as a yellow solid. [See Vlasov et al., J. Org. Chem. USSR (Engl. Trans.), 15:1953-1964 (1979)]

reactant | 2,4-dinitrofluorobenzene | 38.07 mmol, 7.08 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | KF | 41.88 mmol, 2.43 g | [F-].[K+]
reactant | 18-crown-6-ether | 2.21 mmol, 0.58 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | methyl 2-(trifluoromethyl)-3,3,3-trifluoropropionate | 19.04 mmol, 4.00 g | FC(C(C(=O)OC)C(F)(F)F)(F)F | C5H4F6O2
reactant | KF | 2.43 g | [F-].[K+]
reactant | 18-Crown-6-ether | 0.58 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | Methyl 2-(trifluoromethyl)-3,3,3-trifluoropropionate | 4.00 g | FC(C(C(=O)OC)C(F)(F)F)(F)F | C5H4F6O2
reactant | HCl | 0.5 N | Cl | ClH
solvent | sulfolane | 37 mL | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | Et2O | CCOCC | C4H10O
product | 2-(2,4-Dinitro-phenyl)-3,3,3-trifluoro-2-trifluoromethyl-propionic acid methyl ester | COC(C(C(F)(F)F)(C(F)(F)F)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C11H6F6N2O6
